US07517873B2
To a mixture of 1.37 g (0.00542 mole) of (rac)-9-allyl-2-chloro-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-65), 0.51 mL (0.00813 mole) of iodomethane and 15 mL of N,N-dimethyl-formamide at 0 degrees, was added 0.33 g (0.00813 mole) of 60% oil dispersion of sodium hydride. The mixture was stirred at 0 degrees for 2 hours and then partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate. The combined organic phases were washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with hexanes-ethyl acetate (100:0-60:40) to give 1.45 g of (rac)-9-allyl-2-chloro-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-65). HRMS (ES+) m/z Calcd for C12H15CIN4O+H [(M+H)+]: 267.1007. Found: 267.1007.

reactant | (rac)-9-allyl-2-chloro-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.00542 mole, 1.37 g | C(C=C)N1C2=C(NC(C(C1)C)=O)C=NC(=N2)Cl | C11H13ClN4O
reactant | iodomethane | 0.00813 mole, 0.51 mL | IC | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethyl-formamide | 15 mL | CN(C=O)C | C3H7NO
product | (rac)-9-allyl-2-chloro-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 1.45 g | C(C=C)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)Cl | C12H15ClN4O
